US06136800
A solution of 9.4 g of diethyl-(difluoromethyl)-phosphonate in 150 ml of tetrahydrofuran is slowly mixed with 25 ml of 2 M lithium diisopropylamide solution at a bath temperature of -50° C., and it is stirred for 1 hour. Then, a solution of 5.6 g of 3-methoxy-estra-1,3,5(10),15-tetraen-17-one in 173 ml of tetrahydrofuran is slowly added, stirred for 15 minutes, slowly heated at a bath temperature of from -50° C. to 100° C. and refluxed for 6 hours. For working-up, half the volume is concentrated by evaporation in a vacuum, diluted with ethyl acetate, washed with water as well as with saturated sodium chloride solution, dried on sodium sulfate, concentrated by evaporation in a vacuum and chromatographed on silica gel with hexane/ethyl acetate/triethylamine. 3.0 g of 17-difluoromethylene-3-methoxy-estra-1,3,5(10),15-tetraene is obtained as colorless crystals with a melting point of 122-123° C., [α]D22 =-120.9° (c=0.515% in pyridine).

reactant | diethyl-(difluoromethyl)-phosphonate | 9.4 g | C(C)OP(OCC)(=O)C(F)F | C5H11F2O3P
reactant | lithium diisopropylamide | 2 M, 25 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | 3-methoxy-estra-1,3,5(10),15-tetraen-17-one | 5.6 g | COC1=CC=2CC[C@H]3[C@@H]4C=CC([C@@]4(C)CC[C@@H]3C2C=C1)=O | C19H22O2
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 173 ml | O1CCCC1 | C4H8O
product | 17-difluoromethylene-3-methoxy-estra-1,3,5(10),15-tetraene | 3.0 g | FC(=C1[C@]2(C)[C@@H](C=C1)[C@@H]1CCC=3C=C(C=CC3[C@H]1CC2)OC)F | C20H22F2O
